US07893099B2
Step 1: Rac-3-Oxo-cyclopentanecarboxylic acid tert-butyl ester
To a cold (ice bath) solution of 3-oxo-1-cyclopentanecarboxylic acid (1.50 g), tert-butylalcohol (1.05 g) and 4-dimethylaminopyridine (140 mg) in dichloromethane (9 mL) was added a solution of dicyclocarbodiimide in dichloromethane (9 mL). The mixture was stirred 3 hours at ca. 2° C. then diethylether (30 mL) was added and the precipitate was filtered off and discarded. The solution was concentrated in vacuo. The residue was purified by flash chromatography on silica gel with cyclohexane/ethyl acetate (9:1 v/v) as eluant to afford the title compound (1.80 g, 96%) as colorless oil. MS (EI): 111 (M-OtBu.)+.

reactant | 3-oxo-1-cyclopentanecarboxylic acid | 1.50 g | O=C1CC(CC1)C(=O)O | C6H8O3
reactant | tert-butylalcohol | 1.05 g | C(C)(C)(C)O | C4H10O
reactant | diethylether | 30 mL | C(C)OCC | C4H10O
catalyst | 4-dimethylaminopyridine | 140 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | Rac-3-Oxo-cyclopentanecarboxylic acid tert-butyl ester | 1.80 g, 96% | C(C)(C)(C)OC(=O)C1CC(CC1)=O | C10H16O3
